US05807859
10-Methyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one may be obtained in the following way: a mixture of 1 g of 10-hydroxymethylene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 80 ml of dimethylformamide and 20 ml of methanol is hydrogenated at a temperature in the region of 20° C. and at normal pressure for 4 hours in the presence of 10% palladium-on-charcoal. After filtration of the catalyst under an inert atmosphere, the solvents are evaporated off and the beige-coloured solid obtained (1.25 g) is purified by chromatography on a column of silica (100 g) with a mixture of dichloromethane and methanol (95/5 by volume). After drying at 90° C., 0.35 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a cream-coloured solid melting above 260° C. (Analysis, % calculated C: 70.87, H: 4.67, N: 17.71, O: 6.74, % found C: 70.5, H: 4.4, N: 17.4).

reactant | 10-hydroxymethylene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | OC=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H9N3O2
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.35 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
